US05830619
Synthesis of α-(neopentoxycarbonyl)-2,6-dinitrobenzyl tosylate
Neopentyl 2,6-dinitromandelate (1.50 g, 4.80 mmol) and p-toluenesulfonyl chloride (1.00 g, 5.28 mmol) were mixed in dry acetone (50 mL) under argon. Dicyclohexylamine (0.957 g, 5.28 mmol) was added slowly to the reaction at 0° C. The mixture was stirred at room temperature for 2 hours at which time the reaction was shown to be complete by thin-layer chromatography (tlc). The acetone was then removed by evaporation under vacuum. The residue was put through a silica gel (60-200 mesh) column using methylene chloride/hexane (1:1) as the eluant. Recrystallization from CHCl3 /petroleum ether gave a yield of 2 g (89%).

reactant | Neopentyl 2,6-dinitromandelate | 4.80 mmol, 1.50 g | [N+](=O)([O-])C1=C(C(C(=O)OCC(C)(C)C)O)C(=CC=C1)[N+](=O)[O-] | C13H16N2O7
reactant | p-toluenesulfonyl chloride | 5.28 mmol, 1.00 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | Dicyclohexylamine | 5.28 mmol, 0.957 g | C1(CCCCC1)NC1CCCCC1 | C12H23N
solvent | acetone | 50 mL | CC(=O)C | C3H6O
product | α-(neopentoxycarbonyl)-2,6-dinitrobenzyl tosylate | S(=O)(=O)(OC(C1=C(C=CC=C1[N+](=O)[O-])[N+](=O)[O-])C(=O)OCC(C)(C)C)C1=CC=C(C)C=C1 | C20H22N2O9S
